US09403802B2
5,8-difluoro-1-(4-methoxybenzyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a solution of ethyl 5,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (5.0 g), potassium iodide (3.3 g) and potassium carbonate (4.1 g) in DMF (100 mL) was added 1-(chloromethyl)-4-methoxybenzene (4.6 g), and the mixture was stirred at 70° C. for 14 hr. The reaction mixture was diluted with water and ethyl acetate, and the organic layer was separated, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The obtained residue was dissolved in ethanol-THF (1:1, 40 mL), 1 N aqueous sodium hydroxide solution (20 mL) was added, and the mixture was stirred at room temperature for 6 hr. The reaction mixture was diluted with water, neutralized with 1 N hydrochloric acid (20 mL), and the precipitate was collected by filtration, washed with water, and dried to give the title compound (4.4 g).

reactant | ethyl 5,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 5.0 g | FC1=C2C(C(=CNC2=C(C=C1)F)C(=O)OCC)=O | C12H9F2NO3
reactant | potassium iodide | 3.3 g | [I-].[K+]
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 4.6 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,8-difluoro-1-(4-methoxybenzyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 4.4 g | FC1=C2C(C(=CN(C2=C(C=C1)F)CC1=CC=C(C=C1)OC)C(=O)O)=O | C18H13F2NO4
